US06080743
N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-N-methylbenzylamine hydrobromide
213 mg (0.53 mmol) of N-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-N-methylbenzylamine are dissolved in 4 ml of an approximately 25% solution of hydrogen bromide in acetic acid, and the solution is stirred at room temperature for 20 hours. The mixture is diluted with diethyl ether and then stirred for 10 minutes, and the solid is filtered off and washed with diethyl ether and a small amount of water. After drying under a high vacuum, the title compound is obtained in the form of a beige solid.

reactant | N-(2,3-dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-N-methylbenzylamine | 0.53 mmol, 213 mg | COC1=NC2=CC(=CC(=C2N=C1OC)CN(C)CC1=CC=CC=C1)[N+](=O)[O-] | C19H20N4O4
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2,3-Dioxo-7-nitro-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-N-methylbenzylamine hydrobromide | Br.O=C1NC2=CC(=CC(=C2NC1=O)CN(C)CC1=CC=CC=C1)[N+](=O)[O-] | InChI=1S/C17H16N4O4.BrH/c1-20(9-11-5-3-2-4-6-11)10-12-7-13(21(24)25)8-14-15(12)19-17(23)16(22)18-14;/h2-8H,9-10H2,1H3,(H,18,22)(H,19,23);1H
